Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor
 
Attending: ___.
 
Chief Complaint:
Dypsnea 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ man with
HTN presenting with three days of rigors, night sweats, fatigue,
and shortness of breath.  

Patient states that on ___ night he experienced sudden
onset of severe chills which lasted several hours, resolved by
morning. Called his PCP who called in empiric Tamiflu.

On ___ patient had same symptoms, severe chills lasting
hours but resolving completely by morning. Happened again on
night of admission around 10pm, but this time also accompanied 
by
shortness of breath. 

He denies any headache, neck stiffness, any chest pain, or 
cough.
He denies abdominal pain, diarrhea, nausea, vomiting, dysuria. 
No
sick contacts, recent travel, or medication changes.

In the ED, initial VS were: 104.7  73  174/91  24  100% RA   

Exam notable for: alert and well appearing, there bilateral
conjunctival injection, oropharynx is clear, lungs are clear to
auscultation bilaterally, no CVA tenderness, soft non-tender
belly, no leg swelling or pain. 

Labs showed: WBC 11.6 81% PMN), K 3.4, HCO3 19, AG 24, lactate
5.8 -> 1.8, flu negative 

Patient received: 
___ 22:58 PO Acetaminophen 1000 mg 
___ 23:19 IV Ketorolac 15 mg 
___ 00:03 IVF  NS 1000 mL x 2  
___ 00:30 IV CefePIME 2 g ___   
___ 00:58 IV Vancomycin (1500 mg ordered) 
___ 00:58 PO Potassium Chloride 40 mEq 
___ 01:00 IVF  NS 1000 mL ___  

Transfer VS were: 98.7  103  ___  94% RA   

On arrival to the floor, patient reports story as above. Feels
completely well aside from slight nasal congestion, has 
recovered
completely from episode of chill/rigors as above.
 

 
Past Medical History:
1. amLODIPine 10 mg PO DAILY 
2. Omeprazole 10 mg PO DAILY 
3. Alendronate Sodium 70 mg PO QTUES 
4. Lisinopril 20 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Citalopram 40 mg PO DAILY 
 
Social History:
___
Family History:
Mother died of ovarian CA, father od sepsis.
 
Physical Exam:
ADMISSION EXAM
===========================
VS: 98.1  124/80  90  20  97  RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, slight conjunctiva injection
bilaterally  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: Nondistended, nontender in all quadrants 
EXTREMITIES: No cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Warm and well perfused, no excoriations or lesions  

DISCHARGE EXAM
============================
VS: ___ 0713 Temp: 98.3 PO BP: 149/91 HR: 69 RR: 20 O2 sat:
96% O2 delivery: RA 
GENERAL: WDWN male in NAD. Lying comfortably in bed.   
HEENT: AT/NC, EOMI, Pupils equal bilaterally. Conjunctival
injection bilaterally. Oropharynx clear. 
NECK: Supple, no cervical lymphadenopathy. 
HEART: RRR with S1/S2. No murmurs, gallops, or rubs. 
LUNGS: Normal respiratory effort. CTAB without wheezes, rales or
rhonchi. 
ABDOMEN: Soft, non-tender, non-distended. Normoactive Bs. No
masses appreciated. 
BACK: No spinal TTP or CVA tenderness bilaterally. 
EXTREMITIES: Warm, dry. No cyanosis, clubbing, or edema.    
NEURO: A&Ox3, CN II-XII intact. ___ strength throughout.   
SKIN: Warm and well perfused, no excoriations or lesions  
 
Pertinent Results:
ADMISSION LABS
=======================
___ 01:03AM   LACTATE-1.8
___ 11:20PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 11:19PM   COMMENTS-GREEN TOP
___ 11:19PM   LACTATE-5.8*
___ 11:10PM   GLUCOSE-120* UREA N-16 CREAT-1.2 SODIUM-142 
POTASSIUM-3.4* CHLORIDE-99 TOTAL CO2-19* ANION GAP-24*
___ 11:10PM   estGFR-Using this
___ 11:10PM   ALT(SGPT)-29 AST(SGOT)-23 ALK PHOS-56 TOT 
BILI-1.1
___ 11:10PM   LIPASE-26
___ 11:10PM   ALBUMIN-4.3 CALCIUM-9.2 PHOSPHATE-2.1* 
MAGNESIUM-1.7
___ 11:10PM   WBC-11.6* RBC-4.80 HGB-14.6 HCT-41.7 MCV-87 
MCH-30.4 MCHC-35.0 RDW-12.5 RDWSD-39.9
___ 11:10PM   NEUTS-81.0* LYMPHS-9.4* MONOS-8.5 EOS-0.5* 
BASOS-0.3 IM ___ AbsNeut-9.43* AbsLymp-1.09* AbsMono-0.99* 
AbsEos-0.06 AbsBaso-0.03
___ 11:10PM   PLT COUNT-184

DISCHARGE LABS
=======================
___ 04:55AM BLOOD WBC-6.4 RBC-4.28* Hgb-13.3* Hct-37.5* 
MCV-88 MCH-31.1 MCHC-35.5 RDW-12.6 RDWSD-40.1 Plt ___
___ 04:55AM BLOOD Glucose-114* UreaN-8 Creat-0.7 Na-143 
K-3.3* Cl-104 HCO3-24 AnGap-15
___ 04:55AM BLOOD Calcium-9.1 Phos-2.7 Mg-1.9

IMAGING
=======================
CXR ___
IMPRESSION:  
No acute cardiopulmonary process identified. 

MICRO
=======================
BLOOD CULTURE ___ NGTD

 
Brief Hospital Course:
Mr. ___ is a ___ man with a hx of HTN who presented 
with three days of fever, rigors, and malaise, found to have 
borderline leukocytosis and lactic acidosis without focal source 
of infection. He was monitored for a day and remained afebrile 
and hemodynamically stable. Ultimately, his symptoms were felt 
to be ___ a viral illness. He was discharged home with plan for 
close primary care provider follow up. 

ACUTE ISSUES: 
============= 
# SIRS
# Fever/chills, resolved.
Presented with high fevers and rigors x3 days and new onset 
shortness of breath, conjunctivitis, and rhinorrhea/congestion. 
He denied any recent travel or TB contacts. Initially, he met 
___ SIRS criteria with fever and leukocytosis. Exam was notable 
for bilateral conjunctivitis and rhinorrhea without other focal 
signs of infection. Labs showed a WBC of 11.6 and lactic 
acidosis of 5.8, which improved rapidly to 1.8 with intravenous 
fluids. CXR was negative for focal consolidation or infection. 
He was empirically given vancomycin/cefepime in the ED, though 
these were discontinued overnight due to a lack of clear source 
of bacterial infection and the patient otherwise being HD stable 
and afebrile. His presentation was felt to most likely be a 
viral syndrome in the setting of conjunctivitis and 
congestion/rhinorrhea that developed while here. Bacterial 
infection vs new presentation of malignancy were also considered 
but seemed less likely. He should follow up closely with his 
primary care provider. 

# Lactic acidosis, resolved
Noted to have a lactic acidosis to 5.8 on admission, resolved 
with 2L IVF. Etiology felt to be due to hypoperfusion in the 
setting of viral infection though no documented episodes of 
hypotension. He had no clear medication culprits (metformin, 
etc). If fever and night sweats continue without focal 
infectious source, could also consider malignancy as an 
etiology. 

CHRONIC ISSUES: 
================ 
# Hypertension
Continued on home amlodipine and hydrochlorothiazide. Lisionpril 
was held in the setting of lactic acidosis and low normal 
pressures. 

# GERD: Continued home omeprazole 10 mg daily. 

# Depression: Continued home citalopram 40 mg daily. 

TRANSITIONAL ISSUES:
====================
[] Consider starting K repletion or decreasing HCTZ pending 
repeat lab work in x1 week
[] Call ___ if concern for change/worsening symptoms 
[ ] Follow up fever & chills to ensure resolution
[ ] Consider repeat CBC at outpatient appointment if still 
symptomatic 
# CODE: Full (presumed) 
# Proxy name: ___ 
# Relationship: Wife Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Omeprazole 10 mg PO DAILY 
3. Alendronate Sodium 70 mg PO QTUES 
4. Lisinopril 20 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Citalopram 40 mg PO DAILY 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO QTUES  
2.  amLODIPine 10 mg PO DAILY  
3.  Citalopram 40 mg PO DAILY  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.  Omeprazole 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Primary:
Viral upper respiratory infection

#Secondary:
Leukocytosis
Lactic acidosis 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you were having 
fevers, chills and shortness of breath. While you were in the 
hospital we checked multiple labs and did a chest xray to 
evaluate for infection. You were initially given intravenous 
antibiotics but these were stopped after a source of infection 
was not found. It is most likely that you symptoms are due to a 
viral illness that should improve with time. However, if you 
continue to have fever, chills, or new symptoms at home, please 
return to your primary care provider or emergency department for 
re-evaluation. 

What you should do once you return home:
- Please follow up with your primary care provider in the next 
___ days
- Continue taking your medications as prescribed 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___